US06420426B1
To a stirring solution of [5-cyano-4-fluoro-2-methoxy-N-(3-nitro-benzyl)-benzamide (1.5 g, 4.6 mmol) in dichloromethane (200 mL, 0.3 M) at −78° C. was added BBr3 (21.5 mL, 21.4 mmol). the mixture was allowed to'stir for 45 min at −78° C. and the dry ice/acetone bath was then removed and the solution was allowed to warm to room temperature. Then, the solution was cooled down again to −78° C. and was then quenched with 100 mL of methanol. The mixture was allowed to warm to room temperature and concentrated. Purification by MPLC (10-100% ethyl acetate, 23 mL/min, 75 min) provided 5-cyano-4-fluoro-2-hydroxy-N-(3-nitro-benzyl)-benzamide (0.85 g, 59%) as a beige powder: Rf 0.37 (70% ethyl acetate in heptane); 1H NMR (DMSO-d6, 300 MHz) δ 9.50 (bd s, 1H), 8.39 (d, J=7.5 Hz, 1H), 8.20 (s, 1H), 8.12 (d, J=9.3 Hz, 1H), 7.80 (d, J=7.2 Hz, 1H), 7.63 (t, J=7.8 Hz, 1H), 7.04 (d, J=11.1 Hz, 1H), 4.62 (s, 2H).

reactant | 5-cyano-4-fluoro-2-methoxy-N-(3-nitro-benzyl)-benzamide | 4.6 mmol, 1.5 g | C(#N)C=1C(=CC(=C(C(=O)NCC2=CC(=CC=C2)[N+](=O)[O-])C1)OC)F | C16H12FN3O4
reactant | BBr3 | 21.4 mmol, 21.5 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 0.3 M, 200 mL | ClCCl | CH2Cl2
product | 5-cyano-4-fluoro-2-hydroxy-N-(3-nitro-benzyl)-benzamide | 0.85 g, 59% | C(#N)C=1C(=CC(=C(C(=O)NCC2=CC(=CC=C2)[N+](=O)[O-])C1)O)F | C15H10FN3O4
